US08119633B2
2-(2-(3,4-Dichloro-N-methylphenylsulfonamido)phenyl)-acetic acid methyl ester
2-(2-(3,4-Dichlorophenylsulfonamido)phenyl)acetic acid methyl ester (14.3 g, 38.21 mmol) and methyl iodide (8.2 ml, 132.25 mmol) were dissolved in acetone (300 ml); K2CO3 (7.3 g, 52.90 mmol) was added thereto, and stirring was carried out overnight at 40° C. in a closed flask. The suspension was cooled and then filtered, concentrated, filtered over silica gel (eluant DCM) and concentrated.

reactant | 2-(2-(3,4-Dichlorophenylsulfonamido)phenyl)acetic acid methyl ester | 38.21 mmol, 14.3 g | COC(CC1=C(C=CC=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)=O | C15H13Cl2NO4S
reactant | methyl iodide | 132.25 mmol, 8.2 ml | CI | CH3I
reactant | K2CO3 | 52.90 mmol, 7.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 2-(2-(3,4-Dichloro-N-methylphenylsulfonamido)phenyl)-acetic acid methyl ester | COC(CC1=C(C=CC=C1)N(S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)C)=O | C16H15Cl2NO4S
